US07820823B2
7-Chloro-1-(2,4-difluoro-phenyl)-6-fluoro-4-oxo-1,4-dihydro-quinoline-3-carboxylic Acid Ethyl Ester
A solution of 2 g 2-(2,4-dichloro-5-fluoro-benzoyl)-3-ethoxy-acrylic acid ethyl ester (5.97 mmol) and 0.6 ml of 2,4-difluoroaniline (5.97 mmol) in 15 ml of ethanol was stirred at reflux for 25 hrs. The reaction was monitored by TLC. The ethanol was evaporated and the residual ethanol was distilled from an azeotrope with 20 ml heptane and 20 ml ethyl acetate. The yellow oil was dissolved in 20 ml of THF, reacted with 315 mg of a 50% NaH suspension in oil (6.56 mmol) and stirred at reflux for 20 hrs. The solution was diluted with ethyl acetate, washed with water and brine, dried over Mg sulfate, filtered and the filtrate evaporated.

reactant | 2-(2,4-dichloro-5-fluoro-benzoyl)-3-ethoxy-acrylic acid ethyl ester | 5.97 mmol, 2 g | C(C)OC(C(=COCC)C(C1=C(C=C(C(=C1)F)Cl)Cl)=O)=O | C14H13Cl2FO4
reactant | 2,4-difluoroaniline | 5.97 mmol, 0.6 ml | FC1=C(N)C=CC(=C1)F | C6H5F2N
reactant | NaH | [H-].[Na+]
solvent | ethanol | 15 ml | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-Chloro-1-(2,4-difluoro-phenyl)-6-fluoro-4-oxo-1,4-dihydro-quinoline-3-carboxylic Acid Ethyl Ester | C(C)OC(=O)C1=CN(C2=CC(=C(C=C2C1=O)F)Cl)C1=C(C=C(C=C1)F)F | C18H11ClF3NO3
